US08735584B2
1-Chloro-8-(2-morpholin-4-yl-ethoxy)-5H-benzo[c][1,8]naphthyridin-6-one (222)
The title compound was synthesized according to the procedure described for the preparation of Example 1 using 4-chloro-3-iodopyridin-2-amine (65 mg, 0.26 mmol) and 5-(2-morpholin-4-yl-ethoxy)-2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-benzoic acid methyl ester (110 mg, 0.28 mmol) to provide 222 (6 mg, 6% yield) as a white solid. LC-MS (M+H=360, obsd.=360).

reactant | 4-chloro-3-iodopyridin-2-amine | 0.26 mmol, 65 mg | ClC1=C(C(=NC=C1)N)I | C5H4ClIN2
reactant | 5-(2-morpholin-4-yl-ethoxy)-2-(4,4,5,5-tetramethyl[1,3,2]-dioxaborolan-2-yl)-benzoic acid methyl ester | 0.28 mmol, 110 mg | COC(C1=C(C=CC(=C1)OCCN1CCOCC1)B1OC(C(O1)(C)C)(C)C)=O | C20H30BNO6
product | 1-Chloro-8-(2-morpholin-4-yl-ethoxy)-5H-benzo[c][1,8]naphthyridin-6-one | 6 mg, 6% yield | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=C(C=C3)OCCN3CCOCC3 | C18H18ClN3O3
